US04625040
Preparation of N-Phenyl-2,5-dihydro-2-oxo-4-[N-(p-chlorophenyl)amino]-3-furancarboxamide
Under nitrogen atmosphere, 8.5 ml of triethylamine was added dropwise over a period of 40 min to a solution of 2-anilino-4-oxo-3-furoic acid (13.37 grams, 0.061 mol) in 110 ml methylene chloride at 0° C. Then BOP-Cl was added in one portion and the mixture was stirred at 0°-5° C. for 45 min. A solution of p-chloroaniline (7.8 grams, 61 mmol) in 50 ml methylene chloride was added rapidly over 10 min followed by the dropwise addition (1.5 hours) of a solution of triethylamine (8.5 ml) in 10 ml methylene chloride. The reaction mixture was stirred at 0°-5° C. for 30 min and at room temperature for 20 hours. After cooling, 150 ml of water were added and the reaction mixture was acidified with 4N hydrochloric acid (pH 1), and then extracted with methylene chloride. The organic extract was washed sequentially with water, 5% aqueous solution of sodium bicarbonate, and water. The washed extract was dried over sodium sulfate and the solvent evaporated under reduced pressure. The crude product was recrystallized from toluene. Yield: 9.2 gram, mp 209°-210° C. (R=C6H4Cl--p).

reactant | 2-anilino-4-oxo-3-furoic acid | 0.061 mol, 13.37 grams | N(C1=CC=CC=C1)C=1OCC(C1C(=O)O)=O | C11H9NO4
reactant | BOP-Cl | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | p-chloroaniline | 61 mmol, 7.8 grams | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | hydrochloric acid | 4N, pH 1 | Cl | ClH
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 150 ml | O | H2O
solvent | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
product | N-Phenyl-2,5-dihydro-2-oxo-4-[N-(p-chlorophenyl)amino]-3-furancarboxamide | C1(=CC=CC=C1)NC(=O)C=1C(OCC1NC1=CC=C(C=C1)Cl)=O | C17H13ClN2O3
